US06720321B2
1-[4-(2-Morpholin-4-yl-ethoxy)-naphthalen-1-yl]-3-(2-phenyl-cyclopropyl)-urea
To 4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl amine (165 mg, 0.61 mmol, 1 equiv.) dissolved in 2.5 mL anhydrous THF was added, via syringe, trans-2-phenyl-cyclopropyl-isocyanate (90 uL, 0.60 mmol, 1 equiv.). The mixture was left stirring at room temperature for 18 h under inert atmosphere, then the solvent was removed in vacuo. The product was purified by column chromatography on SiO2, using 2-4% MeOH in EtOAc as eluent. A taupe foam was isolated, which recrystallized from hot acetonitrile to afford the title compound as a white solid (60 mg), mp 156-157° C.

reactant | 4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl amine | 0.61 mmol, 165 mg, 1 equiv. | N1(CCOCC1)CCOC1=CC=C(C2=CC=CC=C12)N | C16H20N2O2
reactant | trans-2-phenyl-cyclopropyl-isocyanate | 0.60 mmol, 90 uL, 1 equiv. | C1(=CC=CC=C1)[C@H]1[C@@H](C1)N=C=O | C10H9NO
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 1-[4-(2-Morpholin-4-yl-ethoxy)-naphthalen-1-yl]-3-(2-phenyl-cyclopropyl)-urea | 60 mg | N1(CCOCC1)CCOC1=CC=C(C2=CC=CC=C12)NC(=O)NC1C(C1)C1=CC=CC=C1 | C26H29N3O3
